US06515003B1
The intermediate 3-(3,5-di-t-butyl-4-hydroxyphenyl)-3-methoxybenzaldehyde was prepared in a manner similar to the procedure described in Example 1b using 4-bromo-2,6-di-t-butylphenol (0.50 g, 1.75 mmol), 2-methoxy-5-formylphenyl boronic acid (0.315 g, 1.75 mmol), tetrakis(triphenylphosphine)palladium(0) (0.20 g, 0.175 mmol), K2CO3 (0.95 g, 7.0 mmol), dimethoxyethane (15 mL) and H2O (1 mL); 367 mg, 61% yield.

reactant | 4-bromo-2,6-di-t-butylphenol | 1.75 mmol, 0.50 g | BrC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21BrO
reactant | 2-methoxy-5-formylphenyl boronic acid | 1.75 mmol, 0.315 g | COC1=C(C=C(C=C1)C=O)B(O)O | C8H9BO4
reactant | K2CO3 | 7.0 mmol, 0.95 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.175 mmol, 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
product | 3-(3,5-di-t-butyl-4-hydroxyphenyl)-3-methoxybenzaldehyde | 61% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1(CC(C=O)=CC=C1)OC | C22H30O3
